US08975267B2
Methyl 7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylate
4-[4-(methoxycarbonyl)-1H-pyrrol-3-yl]butanoic acid (500 mg, 2.36 mmol) was dissolved in TFA (3 mL). TFAA (0.329 mL, 2.36 mmol) was added and the reaction was stirred at room temperature for 1 h. Organic solvent was evaporated to dryness and the residue suspended in Et2O (15 mL) and filtrated to give 320 mg (yield: 64%) of the title compound as a light yellow solid.

reactant | 4-[4-(methoxycarbonyl)-1H-pyrrol-3-yl]butanoic acid | 2.36 mmol, 500 mg | COC(=O)C=1C(=CNC1)CCCC(=O)O | C10H13NO4
reactant | TFAA | 2.36 mmol, 0.329 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | Methyl 7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylate | 320 mg, yield: 64% | O=C1CCCC=2C(=CNC12)C(=O)OC | C10H11NO3
